US09120749B2
tert-butyl 2-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino) pyridin-2-yloxy)ethylcarbamate
Following General procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (311 mg, 1 mmol) was reacted with tert-butyl 2-(5-aminopyridin-2-yloxy)ethylcarbamate (380 mg, 1.5 mmol) to afford the desired product (332 mg, 63%) as a yellow solid: ESI MS m/z 527 [C25H27BrN4O4+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1 mmol, 311 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | tert-butyl 2-(5-aminopyridin-2-yloxy)ethylcarbamate | 1.5 mmol, 380 mg | NC=1C=CC(=NC1)OCCNC(OC(C)(C)C)=O | C12H19N3O3
product | tert-butyl 2-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino) pyridin-2-yloxy)ethylcarbamate | 332 mg, 63% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)OCCNC(OC(C)(C)C)=O | C25H27BrN4O4
